US05045552
2-[{4-(2-Chloroethoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole
12.3 g of crude 2-mercaptobenzimidazole, 20 g of 4-(2-chloroethoxy)-2-chloromethyl-3-methylpyridine hydrochloride and 11 g of sodium hydroxide were dissolved in 300 ml of ethanol to obtain a solution. This solution was stirred at 60° C. for 2 hours and distilled under a reduced pressure to remove the ethanol. The obtained residue was chromatographed over a silica gel column and eluted with 40% ethyl acetate in hexane and then with ethyl acetate to obtain 15.5 g of the title compound as a white solid.

reactant | 2-mercaptobenzimidazole | 12.3 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 4-(2-chloroethoxy)-2-chloromethyl-3-methylpyridine hydrochloride | 20 g | Cl.ClCCOC1=C(C(=NC=C1)CCl)C
reactant | sodium hydroxide | 11 g | [OH-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[{4-(2-Chloroethoxy)-3-methylpyridine-2-yl}methylthio]-1H-benzimidazole | 15.5 g | ClCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C16H16ClN3OS
